US05834506
3-(4-Nitrophenyl)propanoyl chloride
3-(4-Nitrophenyl)propanoic acid prepared in Example DD (12.5 g, 64 mmol) was suspended in CH2Cl2 (300 mL) and treated with oxalyl chloride (7.4 mL, 85 mmol) and DMF (5 drops). The solution was stirred overnight at room temperature. The solution was concentrated, and the residue was dissolved in CH2Cl2 and re-concentrated. The crude product was used as is in the next step.

reactant | 3-(4-Nitrophenyl)propanoic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)O | C9H9NO4
reactant | oxalyl chloride | 85 mmol, 7.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 3-(4-Nitrophenyl)propanoyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)Cl | C9H8ClNO3
